US07186454B2
In a 200-ml flask equipped with a stirrer, a condenser and a thermometer were placed 21.4 g (100 mmol) of 3,3′-diaminobenzidine and 100 ml of cyclohexanone, followed by heating with stirring at 60° C. in a nitrogen atmosphere for 2 hours. After cooling to room temperature, cyclohexanone was removed under reduced pressure. The residue was purified by silica gel chromatography, to yield 48.1 g (90 mmol) of the target 3,3′-diaminobenzidine tetracyclohexanimine [N,N′,N″,N′″-tetracyclohexylidene-3,4,3′,4′-biphenyltetramine] in a yield of 90%.

reactant | 3,3′-diaminobenzidine | 100 mmol, 21.4 g | NC=1C=C(C=CC1N)C1=CC(=C(N)C=C1)N | C12H14N4
solvent | cyclohexanone | 100 ml | C1(CCCCC1)=O | C6H10O
product | 3,3′-diaminobenzidine tetracyclohexanimine | yield of 90% | C1(CCCCC1)=N.C1(CCCCC1)=N.C1(CCCCC1)=N.C1(CCCCC1)=N.NC=1C=C(C=CC1N)C1=CC(=C(N)C=C1)N | InChI=1S/C12H14N4.4C6H11N/c13-9-3-1-7(5-11(9)15)8-2-4-10(14)12(16)6-8;4*7-6-4-2-1-3-5-6/h1-6H,13-16H2;4*7H,1-5H2
